US20010036946A1
c) N-[3-[[[1-(phenylmethyl)-4-piperidinyl]amino]methyl]-2-pyridinyl]-2,2-dimethylpropanamide
A solution of 8.2 g (0.0398 mol) of N-(3-formyl-2-pyridinyl)-2,2-dimethylpropanamide and 7.6 g (0.04 mol) of 4-amino-1-(phenylmethyl)piperidine in 80 ml of methanol was combined in batches with a total of 1.7 g (0.045 mol) of sodium borohydride and refluxed for a total of 24 hours. The solvent was removed in vacuo, the residue was distributed between water and ethyl acetate. The organic phase was dried over sodium sulphate and freed from solvent. The residue was triturated with diisopropylether and suction filtered. 6.0g (39.6% of theory) of colourless crystals of melting point 138° C. were obtained.

reactant | N-(3-formyl-2-pyridinyl)-2,2-dimethylpropanamide | 0.0398 mol, 8.2 g | C(=O)C=1C(=NC=CC1)NC(C(C)(C)C)=O | C11H14N2O2
reactant | 4-amino-1-(phenylmethyl)piperidine | 0.04 mol, 7.6 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | sodium borohydride | 0.045 mol, 1.7 g | [BH4-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | N-[3-[[[1-(phenylmethyl)-4-piperidinyl]amino]methyl]-2-pyridinyl]-2,2-dimethylpropanamide | C1(=CC=CC=C1)CN1CCC(CC1)NCC=1C(=NC=CC1)NC(C(C)(C)C)=O | C23H32N4O
